### ISSUE TITLE
kernel rejects simp proof, dischargeEqnThmHypothesis not well behaving 

### ISSUE THREAD

**Issue by mrigger** [leanprover/lean4#14961]
### Prerequisites

* [X] Check that your issue is not already filed:
      https://github.com/leanprover/lean4/issues
* [X] Reduce the issue to a minimal, self-contained, reproducible test case.
      Avoid dependencies to Mathlib or Batteries.
* [X] Test your test case against the latest nightly release, for example on
      https://live.lean-lang.org/#project=lean-nightly
      (You can also use the settings there to switch to “Lean nightly”)

### Description

The equation lemma generated for a well-founded definition can be rejected by
the kernel as malformed:

```lean
def f (n : Nat) : Nat :=
  if h : n = 0 then 0 else (let s := n; match s, true with | 2, false => 1 | _, _ => 0) + f 0
  termination_by n
```

```
Repro.lean:1:0: error: (kernel) declaration has free variables 'f.eq_def', expression: 
```

### Context

Found by a fuzzer.

### Steps to Reproduce

1. Put these three lines in `Repro.lean`:

   ```lean
   def f (n : Nat) : Nat :=
     if h : n = 0 then 0 else (let s := n; match s, true with | 2, false => 1 | _, _ => 0) + f 0
     termination_by n
   ```

2. Run `lean Repro.lean`.

**Expected behavior:** the file elaborates.

**Actual behavior:**

```
Repro.lean:1:0: error: (kernel) declaration has free variables 'f.eq_def', expression: 
  fun n =>
    Eq.mpr
      (id
        (congrArg (fun x => f n = x n)
          (funext fun n =>
            (fun {α} c {h} [h_1 : Decidable c] =>
                Eq.ndrec (motive := fun [Decidable c] =>
                  ∀ (t t_1 : c → α), t = t_1 → ∀ (e e_1 : ¬c → α), e = e_1 → dite c t e = dite c t_1 e_1)
                  (fun t t_1 e_t =>
                    Eq.rec (motive := fun t_2 e_t => ∀ (e e_1 : ¬c → α), e = e_1 → dite c t e = dite c t_2 e_1)
                      (fun e e_1 e_e => e_e ▸ Eq.refl (dite c t e)) e_t)
                  (Subsingleton.elim h h_1))
              (wfParam n = 0) (fun h => 0) (fun h => 0) (Eq.refl fun h => 0)
              (fun h =>
                (have s := wfParam n;
                  match s, true with
                  | 2, false => 1
                  | x, x_1 => 0) +
                  f 0)
              (fun h =>
                (have s := n;
                  match s, true with
                  | 2, false => 1
                  | x, x_1 => 0) +
                  f 0)
              (funext fun h =>
                congrFun'
                  (congrArg HAdd.hAdd
                    (id
                      (id
                        (have_body_congr' n fun s =>
                          Eq.refl
                            (match s, true with
                            | 2, false => 1
                            | x, x_1 => 0)))))
                  (f 0)))))
      (Eq.trans
        (WellFounded.Nat.fix_eq (fun x => x)
          (fun n a =>
            if h : n = 0 then 0
            else
              (let s := n;
                match s, true with
                | 2, false => 1
                | x, x_1 => 0) +
                a 0 (f._proof_1 n h))
          n)
        (Eq.mpr
          (id
            (congr
              (congrArg Eq
                (dite.congr_simp (n = 0) (fun h => 0) (fun h => 0) (Eq.refl fun h => 0)
                  (fun h =>
                    (let s := n;
                      match s, true with
                      | 2, false => 1
                      | x, x_1 => 0) +
                      (fun y a => f y) 0 (f._proof_1 n h))
                  (fun h => 0 + f 0)
                  (funext fun h =>
                    congrFun'
                      (congrArg HAdd.hAdd
                        (f.match_1.eq_2 (fun s x => Nat) n true (fun _ => 1) (fun x x_1 => 0) fun x =>
                          Eq.ndrec (motive := fun n => ¬n = 0 → true = false → False)
                            (fun h x => False.elim (noConfusion_of_Nat Bool.ctorIdx x)) (Eq.symm x) h))
                      (f 0))))
              (dite.congr_simp (n = 0) (fun h => 0) (fun h => 0) (Eq.refl fun h => 0)
                (fun h =>
                  (let s := n;
                    match s, true with
                    | 2, false => 1
                    | x, x_1 => 0) +
                    f 0)
                (fun h => 0 + f 0)
                (funext fun h =>
                  congrFun'
                    (congrArg HAdd.hAdd
                      (f.match_1.eq_2 (fun s x => Nat) n true (fun _ => 1) (fun x x_1 => 0) fun x =>
                        Eq.ndrec (motive := fun n => ¬n = 0 → true = false → False)
                          (fun h x => False.elim (noConfusion_of_Nat Bool.ctorIdx x)) (Eq.symm x) _fvar.5287))
                    (f 0)))))
          (Eq.refl (if h : n = 0 then 0 else 0 + f 0))))

```

### Versions

```
Lean 4.35.0-nightly-2026-08-28
Target: x86_64-unknown-linux-gnu Linux
```

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.

**Comment by nomeata** [comment]
Thanks! Not actually tied to well founded recursion, but rather an issue with simp. Detailed analysis by Claude:

## Analysis

`simp`'s result cache is keyed on the expression alone, so the *proof* of a cached result must not mention local hypotheses that `simp` introduced itself while descending into a term. This is the documented `Methods.wellBehavedDischarge` contract (`src/Lean/Meta/Tactic/Simp/Types.lean`):

> `wellBehavedDischarge` must **not** be set to `true` IF `discharge?` access local declarations with index >= `Context.lctxInitIndices` when `contextual := false`.

`dischargeUsingAssumption?` respects it; `dischargeEqnThmHypothesis?` does not.

With `set_option trace.Meta.Tactic.simp.discharge true`, the match-equation side condition is discharged exactly **once**, even though the `match` occurs in both `dite` branches:

```
[Meta.Tactic.simp.discharge] ✅️ f.match_1.eq_2 discharge ✅️
      n = 2 → true = false → False
```

`dischargeEqnThmHypothesis?` proves that goal by `intro x : n = 2` followed by `unifyEq?`, which substitutes `n := 2`. `subst` reverts everything depending on `n` — including the `dite` hypothesis `h : ¬n = 0` that `simp` introduced when entering the `else` branch. So the proof is

```
Eq.ndrec (motive := fun n => ¬n = 0 → true = false → False) … (Eq.symm x) h
```

which mentions `h`. That result is cached under the key `match s, true with …`, which does **not** mention `h`. The identical match term in the other branch hits the cache and reuses the proof under a *different* `h` binder, leaving the original `h` free — hence `_fvar.5287` in the reported term and the kernel rejection.

### Smaller reproducer — no well-founded recursion involved

```lean
example (n : Nat) :
    (if h : n = 0 then (let s := n; match s, true with | 2, false => 1 | _, _ => 0)
     else (let s := n; match s, true with | 2, false => 1 | _, _ => 0)) = 0 := by
  simp
-- error: (kernel) declaration has free variables '_example'
```

So this is a `simp` bug; the well-founded `eq_def` generator just happens to run `simp` on a goal of that shape.

The `let s := n` matters: without it, the `dite` congruence generalizes `h` into the matcher application itself, so the two branches get different cache keys and the bug is masked.

### Confirmation that the cache is the culprit

Both of these succeed on the failing example:

```lean
simp +contextual                        -- resets the cache at binders
simp (config := { memoize := false })   -- no caching at all
```

### Versions

Not a regression: reproduces identically on v4.27.0-rc1, v4.28.0, v4.29.1, v4.30.0, v4.33.1 and v4.34.0-rc2.
